US04382090
Following the above reaction sequence, a solution of 0.93 g of 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine in 10 ml. of anhydrous acetonitrile was prepared. A solution of 0.22 ml. of methyl isocyanate in 5 ml. of anhydrous acetonitrile was added thereto. The reaction was stirred at ambient temperature for about 2.5 hours at which time the solvent was removed by evaporation. The resulting residue slowly crystallized and was recrystallized from cylcohexane to yield about 0.97 g of N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylurea melting at about 56°-59° C.

reactant | 2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylamine | 0.93 g | CN(C)CC=1SC=C(N1)CSCCN | C9H17N3S2
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | acetonitrile | C(C)#N | C2H3N
product | N-methyl-N'-2-(2-dimethylaminomethyl-4-thiazolylmethylthio)ethylurea | about 0.97 g | CNC(=O)NCCSCC=1N=C(SC1)CN(C)C | C11H20N4OS2
